US05552420
To a mixture of 5-hydroxymethyl-2-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethyl-phenoxy]-propyl]-1,2,4-triazole (343 mg, 1 mmol) in 15 ml of acetonitrile was added DMAP (244 mg, 2 mmol) and phenyl chlorothioformate (381 mg, 2.2 mmol). The mixture was stirred at 20° C. for 7 h, an additional phenyl chlorothioformate (1 equiv) was added, and the mixture was stirred for 15 h. The solvent was removed in vacuo and 5-phenoxythiocarbonyloxymethyl-2-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-propyl]-1,2,4-triazole was isolated and used without further purification.

reactant | 5-hydroxymethyl-2-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethyl-phenoxy]-propyl]-1,2,4-triazole | 1 mmol, 343 mg | OCC=1N=CN(N1)CCCOC1=C(C=C(C=C1C)C=1N=NN(N1)C)C | C16H21N7O2
reactant | phenyl chlorothioformate | 2.2 mmol, 381 mg | ClC(=S)OC1=CC=CC=C1 | C7H5ClOS
reactant | phenyl chlorothioformate | 1 equiv | ClC(=S)OC1=CC=CC=C1 | C7H5ClOS
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
catalyst | DMAP | 2 mmol, 244 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-phenoxythiocarbonyloxymethyl-2-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-propyl]-1,2,4-triazole | O(C1=CC=CC=C1)C(=S)OCC=1N=CN(N1)CCCOC1=C(C=C(C=C1C)C=1N=NN(N1)C)C | C23H25N7O3S
